US07989444B2
Preparation 55: 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine
To a stirred solution of 1,1-dimethylethyl 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine-7-carboxylate (71 mg) in DCM (2.1 ml) TFA (0.9 ml) was added dropwise. After 30 min. the mixture was diluted with DCM and washed with 5% K2CO3. The organic phase was dried (Na2SO4) and concentrated to afford the title compound (52 mg).

reactant | 1,1-dimethylethyl 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine-7-carboxylate | 71 mg | BrC1=C2C(=CC=3CCN(CCC31)C(=O)OC(C)(C)C)N=C(O2)C | C17H21BrN2O3
solvent | DCM | 2.1 ml | C(Cl)Cl | CH2Cl2
product | 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 52 mg | BrC1=C2C(=CC=3CCNCCC31)N=C(O2)C | C12H13BrN2O
